US09315521B2
To a solution of (2,5-dichlorothiophen-3-yl)methanol (280 mg, 1.5 mmol) in anhydrous dichloromethane (15 mL) was added dropwise phosphorus tribromide (285 μL, 3.0 mmol). The mixture was stirred at room temperature for 3 hours. Dichloromethane was evaporated. The residue was treated with a saturated sodium bicarbonate solution until no more gas evolved. The resultant mixture was extracted with EtOAc (3×20 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording 3-(bromomethyl)-2,5-dichlorothiophene (125 mg, 34% yield). The product was used without further purification.

reactant | (2,5-dichlorothiophen-3-yl)methanol | 1.5 mmol, 280 mg | ClC=1SC(=CC1CO)Cl | C5H4Cl2OS
reactant | phosphorus tribromide | 3.0 mmol, 285 μL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(bromomethyl)-2,5-dichlorothiophene | 125 mg, 34% yield | BrCC1=C(SC(=C1)Cl)Cl | C5H3BrCl2S
